US05338739
To a stirred solution of lithium aluminum hydride (2.26 g) and tetrahydrofuran (185 ml) was added 5-(4-methoxyphenyl)pyrrolidin-2-one in tetrahydrofuran (250 ml). The mixture was heated under reflux for 6 hrs, cooled to ambient temperature, and water (2.5 ml) in tetrahydrofuran and 15% aqueous sodium hydroxide solution (2.5 ml) were added slowly. Additional water (8.5 ml) was added. The suspension was stirred over anhydrous sodium sulfate, filtered through a pad of celite, and the filter cake was washed with tetrahydrofuran. The filtrate was concentrated to give 6.74 g, (96.0%) of 2-(4-methoxyphenyl)pyrrolidine.

reactant | lithium aluminum hydride | 2.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-methoxyphenyl)pyrrolidin-2-one | COC1=CC=C(C=C1)C1CCC(N1)=O | C11H13NO2
reactant | water | 2.5 ml | O | H2O
reactant | water | 8.5 ml | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 185 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxyphenyl)pyrrolidine | 96.0% | COC1=CC=C(C=C1)C1NCCC1 | C11H15NO
